US06949652B2
6-Bromo-3-isopropyl-[1,2,4]triazolo(4,3-a)pyridine hydrochloride
A 500 ml three-necked round-bottomed flask equipped with a mechanical stirrer and a condenser, connected on top to a nitrogen bubbler and a thermometer, was charged with 5-bromo-pyridin-2-yl-hydrazine (43.4 g, 0.231 moles) and isobutyryl chloride (218 ml, 2.08 moles). The mixture was gently refluxed for 3 hours. The heating source was then replaced with an ice-water bath and the slurry cooled to room temperature. Hexane (220 ml) was added and the slurry stirred at room temperature for 15 minutes and filtered. The cake was washed with hexane (3×70 ml) and then dried in a vacuum-oven (35° C.) for 48 hours. The title compound was obtained as an off-white powder (58.96 g, yield 92.3%).

reactant | 5-bromo-pyridin-2-yl-hydrazine | 0.231 moles, 43.4 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | isobutyryl chloride | 2.08 moles, 218 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | Hexane | 220 ml | CCCCCC | C6H14
product | 6-Bromo-3-isopropyl-[1,2,4]triazolo(4,3-a)pyridine hydrochloride | Cl.BrC=1C=CC=2N(C1)C(=NN2)C(C)C | InChI=1S/C9H10BrN3.ClH/c1-6(2)9-12-11-8-4-3-7(10)5-13(8)9;/h3-6H,1-2H3;1H
